* D:\Research\circuit_automation\RC_ckt_transient.asc
V_source N001 0 PWL(0 0 {Tr} {Read_voltage})
R1 Vout N001 {R}
C1 Vout 0 {C}
.tran 0 {Ts} 0 {Tr/10}
.param Tr=1e-3
.param Ts=5
.param Read_voltage=1
.param R=2k
.param C=1m
.backanno
.end
